* Copyright © Linear Technology Corp. 2009.  All rights reserved.
*
.subckt LT3010-5 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN temp=27
Q2 N005 N009 4 0 NA temp=27
Q3 N009 N004 N012 0 NP temp=27
C1 N009 4 6p Rser=500K
Q4 N004 N004 N013 0 NP 10 temp=27
R2 N013 4 10K
R3 N012 4 12K
C2 1 N004 26p Rser=1K
Q5 1 N010 N011 0 FB temp=27
R6 N011 N013 89.4K
G2 8 N004 N002 4 1.2µ
G1 8 N009 N002 4 1.2µ
R1 8 N005 225K
R8 N007 1 2
A2 N006 0 N009 N009 N009 N009 4 N009 VARISTOR
D3 0 N006 F
G3 0 N006 1 N007 13m
Q7 N004 N005 N007 0 P .2m
C5 1 4 10p
C7 8 4 10p
G5 N006 0 N002 4 table(0 4.2m 1 0)
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.95 Vh=1m trise=2m
C6 2 4 10p
G4 0 N006 8 4 table(2.1 1.5m 5.5 4.2m 10 4.7m)
R5 8 N004 1.2G
R7 2 N010 371K
R9 N010 4 127.5K
D1 8 5 200nA
C4 5 4 1p
.model PN PNP(BF=25 Cje=100p Cjc=100p)
.model NA NPN(BF=170K Cje=.25p Cjc=.25p Re=50)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=123)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model 200nA D(Ron=4Meg Ilimit=200n epsilon=.1)
.ends LT3010-5
*
.subckt LT3010 1 2 3 4 5 6 7 8
Q1 N006 N004 8 0 PN
Q2 N004 N008 4 0 NA
Q3 N008 N003 N011 0 NP temp=27
C1 N008 4 6p Rser=500K
Q4 N003 N003 N012 0 NP 10 temp=27
R2 N012 4 10K
R3 N011 4 12K
C2 1 N003 26p Rser=1K
Q5 1 2 N010 0 FB temp=27
R6 N010 N012 89.4K
I1 8 5 .2µ load
G2 8 N003 N002 4 1.2µ
G1 8 N008 N002 4 1.2µ
R1 8 N004 225K
R8 N006 1 2
A2 N005 0 N008 N008 N008 N008 4 N008 VARISTOR
D3 4 N005 F
G3 4 N005 1 N006 13m
Q7 N003 N004 N006 0 P .2m
C5 1 4 10p
C7 8 4 10p
G5 N005 0 N002 4 table(0 4.2m 1 0)
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.95 Vh=1m trise=2m
C6 2 4 10p
G4 4 N005 8 4 table(2.1 1.5m 5.5 4.2m 10 4.7m)
R5 8 N003 1.2G
D1 N008 4 BIA
.model PN PNP(BF=25 Cje=100p Cjc=100p)
.model NA NPN(BF=170K Cje=.25p Cjc=.25p Re=50)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=123)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model  BIA D(Ron=100K Roff=1G Vfwd=.91)
.ends LT3010
*
.subckt LT3011 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN temp=27
Q2 N005 N009 4 0 NA temp=27
Q3 N009 N004 N011 0 NP temp=27
C1 N009 4 6p Rser=500K
Q4 N004 N004 N012 0 NP 10 temp=27
R2 N012 4 10K
R3 N011 4 12K
C2 1 N004 26p Rser=1K
Q5 1 2 N010 0 FB temp=27
R6 N010 N012 84.5K
G2 8 N004 N002 4 1.2µ
G1 8 N009 N002 4 1.2µ
R1 8 N005 225K
R8 N007 1 2
A2 N006 0 N009 N009 N009 N009 4 N009 VARISTOR
D3 0 N006 F
G3 0 N006 1 N007 13m
Q7 N004 N005 N007 0 P .2m
C5 1 4 10p
C7 8 4 10p
G5 N006 0 N002 4 table(0 4.2m 1 0)
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.95 Vh=1m trise=2m
C6 2 4 10p
G4 0 N006 8 4 table(2.1 1.5m 5.5 4.2m 10 4.7m)
R5 8 N004 1.2G
D1 8 5 200nA
A3 3 4 4 4 4 N017 4 4 SCHMITT Vt=.925 Vh=.825
A4 4 N013 N016 N017 4 4 N014 4 AND Trise=10n
A5 2 4 4 4 4 N018 N013 4 SCHMITT Vt=1.116 Vh=3m Trise=30u
M1 6 N022 4 4 PG
A7 N014 N018 4 4 4 4 3 4 SRFLOP ic=0 Vhigh=2.5 Vlow=0 Rout=1G Ref=.5 Isrc=3u Isink=-100u
C8 3 4 2p
A6 4 N017 4 N016 4 4 N022 4 AND tau=1u
A8 8 4 4 4 4 4 N023 4 SCHMITT Vt=2.6 Vh=.1
A9 5 4 4 4 4 4 N021 4 SCHMITT Vt=.95 Vh=1m
A10 4 N021 4 N023 4 4 N016 4 AND Tau=1u
C9 5 4 1p
.model P PNP(BF=100)
.model NA NPN(BF=170K Cje=.25p Cjc=.25p Re=50)
.model 200nA D(Ron=4Meg Ilimit=200n epsilon=.1)
.model PN PNP(BF=25 Cje=100p Cjc=100p)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=123)
.model PG VDMOS(Kp=110u Cjo=5p)
.model F D(Ron=1m Roff=10K)
.ends LT3011
