* Copyright © Linear Technology Corp. 2012.  All rights reserved.
*
.subckt LT3012 1 2 3 4 5 6 7 8 9 10
Q1 N008 N006 10 0 PN
Q2 N006 N004 5 0 NA
Q3 N004 N005 N011 0 NP
C1 N004 N005 6p Rser=500K
Q4 N005 N005 N013 0 NP 10
R2 N013 5 12K
R3 N011 5 10K
C2 2 N005 30p Rser=1K
Q5 2 4 N012 0 FB
R6 N012 N013 111.6K
R5 8 5 10Meg
I1 8 5 3µ load
A1 8 5 5 5 5 5 N002 5 SCHMITT Vt=.8 Vh=1m trise=2m
G2 10 N005 N002 5 1.3µ
G1 10 N004 N002 5 1.3µ
R1 10 N006 70K
R8 N008 2 .2
A2 N007 5 N004 N004 N004 N004 5 N004 VARISTOR
D3 5 N007 F
G3 5 N007 2 N008 250m
Q7 N005 N006 N008 0 P 5m
D1 10 2 X
C7 10 5 10p
G5 N007 5 N002 5 table(0 42m 1 0)
C4 10 N004 2p Rser=1G
C5 10 N005 1p Rser=1G
C8 4 5 1p
C9 2 5 10p
G4 5 N007 10 5 table(2 .01m 10 35.5m 30 40.5m 80 14m)
G6 10 5 10 5 table(25 0 80 175u)
A6 5 N002 5 5 5 5 N003 5 VARISTOR
R10 N003 10 10G
G7 10 5 N003 5 table(.9 0 1 45u)
.model PN PNP(BF=30 Cje=100p Cjc=100p Tf=10n Re=.25)
.model NA NPN(BF=1Meg  Cje=40p Cjc=40p Re=20)
.model NP NPN(BF=150)
.model FB NPN(BF=150  Cje=100p Cjc=100p )
.model F D(Ron=1m Roff=10K  Vrev=10)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=90)
.model CDC NPN (BF=100 Re=8K Rb=1Meg)
.model P PNP (BF=1000 Re=1)
.model N1 NPN (BF=100 Rb=10Meg)
.ends LT3012
*
.subckt LT3012B 1 2 3 4 5 6 7 8 9 10
Q1 N008 N006 10 0 PN
Q2 N006 N004 5 0 NA
Q3 N004 N005 N011 0 NP
C1 N004 N005 6p Rser=500K
Q4 N005 N005 N013 0 NP 10
R2 N013 5 12K
R3 N011 5 10K
C2 2 N005 30p Rser=1K
Q5 2 4 N012 0 FB
R6 N012 N013 111.6K
A1 10 5 5 5 5 5 N001 5 SCHMITT Vt=.8 Vh=1m trise=2m
G2 10 N005 N001 5 1.3µ
G1 10 N004 N001 5 1.3µ
R1 10 N006 70K
R8 N008 2 .2
A2 N007 5 N004 N004 N004 N004 5 N004 VARISTOR
D3 5 N007 F
G3 5 N007 2 N008 250m
Q7 N005 N006 N008 0 P 5m
D1 10 2 X
C7 10 5 10p
G5 N007 5 N001 5 table(0 42m 1 0)
C4 10 N004 2p Rser=1G
C5 10 N005 1p Rser=1G
C8 4 5 1p
C9 2 5 10p
G4 5 N007 10 5 table(2 .01m 10 35.5m 30 40.5m 80 14m)
G6 10 5 10 5 table(25 0 80 175u)
A6 5 N001 5 5 5 5 N002 5 VARISTOR
R10 N002 10 10G
G7 10 5 N002 5 table(.9 0 1 45u)
.model PN PNP(BF=30 Cje=100p Cjc=100p Tf=10n Re=.25)
.model NA NPN(BF=1Meg  Cje=40p Cjc=40p Re=20)
.model NP NPN(BF=150)
.model FB NPN(BF=150  Cje=100p Cjc=100p )
.model F D(Ron=1m Roff=10K  Vrev=10)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=90)
.model CDC NPN (BF=100 Re=8K Rb=1Meg)
.model P PNP (BF=1000 Re=1)
.model N1 NPN (BF=100 Rb=10Meg)
.ends LT3012B
